US04355182
Alternate preparation of (5-hydroxy-2-oxopentyl)triphenylphosphonium chloride
2.3 g of (5-hydroxy-2-oxopentyl)triphenylphosphorane was dissolved in methylene chloride and extracted 4 times with aqueous hydrochloric acid (pH 1 to 2) and the extracts were combined, sodium chloride added and then extracted with methylene chloride (4×50 ml). The organic extracts were combined, dried over sodium sulfate, and the solvent removed under nitrogen gas followed by heating to 50° C./0.5 mm Hg for 6 hours and crystallization from acetone to give 1.9 g of product, m.p. 143°-145° C. identical with that obtained by the process in Example 10.

reactant | (5-hydroxy-2-oxopentyl)triphenylphosphorane | 2.3 g | OCCCC(CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H25O2P
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | (5-hydroxy-2-oxopentyl)triphenylphosphonium chloride | 1.9 g | [Cl-].OCCCC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C23H24O2P.ClH/c24-18-10-11-20(25)19-26(21-12-4-1-5-13-21,22-14-6-2-7-15-22)23-16-8-3-9-17-23;/h1-9,12-17,24H,10-11,18-19H2;1H/q+1;/p-1
